US08754103B2
1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine (50.0 mg, 0.118 mmol), NaCN (7.0 mg, 0.142 mmol, 1.2 equiv.), CuI (2.2 mg, 0.0118 mmol, 0.1 equiv.) and KI (3.9 mg, 0.0236 mmol, 0.2 equiv.) were successively placed in a 5 mL Samith vial. To the vial was added a solution of N,N′-dimethylethylenediamine (10.4 mg, 0.118 mmol, 1.0 equiv.) in toluene (5 mL). The suspension was heated by the microwave reactor (Biotage, Personal Chemistry) at 130° C. for 60 min. The suspension was filtered through Celite (3 g) using EtOAc (70 mL). The solvent was removed from the filtrate under a reduced pressure to give a crude mixture. The crude mixture was purified by a preparative TLC (SiO2=1 plate, EtOAc/hexane=1:7 Rf=0.1) to give 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine-1-carbonitrile as colorless crystals.

reactant | 1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine | 0.118 mmol, 50.0 mg | BrC=1N=C(N2C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)C(F)(F)F | C15H7BrF6N2O
reactant | NaCN | 0.142 mmol, 7.0 mg, 1.2 equiv. | [C-]#N.[Na+]
reactant | N,N′-dimethylethylenediamine | 0.118 mmol, 10.4 mg, 1.0 equiv. | CNCCNC | C4H12N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.0118 mmol, 2.2 mg, 0.1 equiv. | [Cu]I
product | 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine-1-carbonitrile | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NC2C#N)C(F)(F)F)(F)F | C16H7F6N3O
